US04007228
The substitution of a hydrogen of the amine function in the meta position of the nitro group is easily accomplished in the following manner. A mixture of 0.086 mols (18.1 g) of (2'-hydroxyethyl)-1-amino-2-nitro-4-methylamino benzene with 110 cm3 of water and 6.25 g of calcium carbonate is brought to reflux. 0.124 mols (8.75 cm3) of glycol bromohydrine is then introduced drop by drop, while stirring. Reflux is maintained for an hour and a half and then the reaction mixture is cooled and acidified with hydrochloric acid. The crystallized hydrochlorate is then dried, redissolved in water, and brought to an alkaline pH by adding ammonia. Drying yields 16 g of (2'-hyroxyethyl)-1-amino-2-nitro-(2'-hydroxyethyl)-4-methylamino benzene which melts at 99° C.

reactant | hydrogen | [H][H] | H2
reactant | (2'-hydroxyethyl)-1-amino-2-nitro-4-methylamino benzene | 0.086 mols, 18.1 g | OCCC=1C(=C(C=CC1NC)N)[N+](=O)[O-] | C9H13N3O3
reactant | calcium carbonate | 6.25 g | C([O-])([O-])=O.[Ca+2]
reactant | glycol bromohydrine | 0.124 mols, 8.75 cm3 | C(CBr)O | C2H5BrO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 110 cm3 | O | H2O
product | (2'-hyroxyethyl)-1-amino-2-nitro-(2'-hydroxyethyl)-4-methylamino benzene | 16 g | OCCC=1C(=C(C(=C(C1)N)[N+](=O)[O-])CCO)NC | C11H17N3O4
